US07893099B2
(1R,2R,4R)-4-(2-Chloro-4-fluoro-benzenesulfonyl)-2-fluoromethyl-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide
A mixture of (1R,2R,4S)-4-(2-Chloro-4-fluoro-benzenesulfonyl)-2-hydroxymethyl-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide (41 mg), perfluoro-1-butanesulfonyl fluoride (62 mg), triethylamine (62 mg) and triethylamine.trishydrofluoride salt (33 mg) in tetrahydrofuran (1 mL) was stirred 24 h at room temperature. The mixture was then adsorbed unto silica and was purified by flash chromatography on silica gel with a gradient of cyclohexane:ethyl:acetate (3:1 to 1:1 v/v) as eluant to afford the title compound (10 mg, 24%) as a colorless solid. MS (EI): 403.3 (M+H)+.

reactant | (1R,2R,4S)-4-(2-Chloro-4-fluoro-benzenesulfonyl)-2-hydroxymethyl-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | 41 mg | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](C[C@@H](C1)S(=O)(=O)C1=C(C=C(C=C1)F)Cl)CO | C17H18ClFN2O4S
reactant | perfluoro-1-butanesulfonyl fluoride | 62 mg | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | triethylamine | 62 mg | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (1R,2R,4R)-4-(2-Chloro-4-fluoro-benzenesulfonyl)-2-fluoromethyl-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | 10 mg, 24% | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](C[C@@H](C1)S(=O)(=O)C1=C(C=C(C=C1)F)Cl)CF | C17H17ClF2N2O3S
